Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4][O:5],3.81471129242
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[O:11][H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10],6.47384407201
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.94823926775
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:5]([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:4],4.95748794419
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:9],2.87228458013
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.741446139790001
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[H:5],1.4471057104499998
[H:1][C:2][O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.96114872053
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],3.82394535555
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.51370051124
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[H:10],0.960144336091
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],4.79521988996
[C:5](#[C:6][H:7])[C:9]([H:10])[H:11].[H:1][C:2][C:3]([H:4])([H:8])[H:12]>>[H:1][C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.04780647487
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],1.10971840171
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],4.23586946777
[H:1][C:2][C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],0.504212491492
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],5.09464586
[H:1].[O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.6078024914
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5],5.05676553683
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-6.46584060158
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],3.8798830059
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:4],3.74941366711
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],4.72071634447
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.339716811
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[O:1]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.08858346626
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:11][H:12],1.80262657591
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([C:3]#[C:4])[C:9]([H:10])([H:11])[H:12],5.792741363459999
